2150-01-12 06:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   repeat EKG w/less TWF in V3-4, but persists in [**4-2**]
   -Cardiac enzymes CK 13, Trop 0.02
   -Repeat hct 20 (after IVF) but ordered1U prbcs (all cell lines down)
   but partially diluated; 23 this AM prior to transfusion
   - spoke with ID, cont new regimen (dapto/[**Last Name (un) **]/po vanco) until blood
   cultures/ c. diff return, then consider switching back or getting ID
   consult.
   - holding valgancyclovir given pancytopenia. Will await CMV VL and
   consider restarting.
   - CBC pancytopenia improving. Still with 6% bands
   - Renal Recs: Dialysis tuesday, hold valcyte pending CMV VL.
   - hemolysis labs negative
   - AM labs pancytopenia, pt placed on neutropenic precautions.
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Exfoliative [**Doctor Last Name **]
   Cellcept (Oral) (Mycophenolate Mofetil)
   Rash;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Myelosuppressio
   Last dose of Antibiotics:
   Daptomycin - [**2150-1-11**] 04:19 AM
   Meropenem - [**2150-1-12**] 12:18 AM
   Vancomycin - [**2150-1-12**] 12:18 AM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2150-1-11**] 08:46 AM
   Coumadin (Warfarin) - [**2150-1-11**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-1-12**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**51**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 79 (73 - 95) bpm
   BP: 109/72(81) {88/45(56) - 123/82(90)} mmHg
   RR: 20 (18 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,765 mL
                                                                    163 mL
   PO:
                                                                  1,100 mL
             TF:
   IVF:
                                                                  1,290 mL
                                                                    163 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    100 mL
                                                                      0 mL
   Urine:
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,665 mL
                                                                    163 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   GENERAL: Ill appearing female
   HEENT: PERRL, O/P Clear, mucous membranes dry
   NECK: No lymphadenopathy, Left tunneled HD line in place, minimal
   erythema, no tenderness
   CARDIAC:  RRR no murmurs
   LUNG:  Clear bilaterally, no wheezing or rhonchi
   ABDOMEN:  Soft, NT, ND, +BS, palpated kidney on right lower quadrant
   EXT:  No clubbing, edema, warm and well pefused, 2+ DP/PT pulses
   bilatearlly
   NEURO:  Alert and oriented x3
   Labs / Radiology
   76 K/uL
   7.8 g/dL
   77 mg/dL
   4.2 mg/dL
   22 mEq/L
   3.6 mEq/L
   15 mg/dL
   107 mEq/L
   140 mEq/L
   25.3 %
   2.3 K/uL
        [image002.jpg]
                             [**2150-1-10**]  11:24 PM
                             [**2150-1-11**]  05:41 AM
                             [**2150-1-11**]  03:29 PM
                             [**2150-1-12**]  05:03 AM
   WBC
   2.9
   2.8
   3.5
   2.3
   Hct
   20.6
   23.1
   27.4
   25.3
   Plt
   65
   60
   96
   76
   Cr
   3.0
   3.1
   4.2
   TropT
   0.02
   0.02
   Glucose
   119
   74
   77
   Other labs: PT / PTT / INR:30.4/30.4/3.0, CK / CKMB /
   Troponin-T:17//0.02, Alk Phos / T Bili:/0.4, Differential-Neuts:26.0 %,
   Band:4.0 %, Lymph:62.0 %, Mono:5.0 %, Eos:2.0 %, Lactic Acid:1.4
   mmol/L, LDH:443 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 ANEMIA, CHRONIC
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SYSTEMIC LUPUS ERYTHEMATOSUS (SLE)
   52 year old female with ESRD on HD, recent VRE bacteremia, CMV Viremia,
   SLE presents with fever and hypotension
   #SEPSIS- Patient presents with fevers, hyotension, tachycardia and a
   lactate of 4.8. In addition, her WBC is 4.0 but with an 8% bandemia.
   She has had a number of infections recently in the setting of
   immunosuppression. The differential is broad including line infection
   (new HD line placed on [**12-31**]), pneumonia (CXR without obvious
   infiltrate), CMV Viremia (viral load [**12-29**] negative), UTI, C. Diff
   (recent infection [**11-5**] but without any symptoms to suggest this).  Pt
   remained hemodynamically stable, however development of neutropenia.
   --Continue broad coverage with Meropenem (GN coverage) plus Daptomycin
   (GP coverage), will start PO Vanc given bandemia. Will consider
   addition of Cipro vs Gentamycin for double GN coverage pending
   hemodynamic stability
   --IVF for goal MAP>65
   --f/u CMV Viral load
   --Follow up blood cultures, send urine, line and stool cultures
   --Consider removal of line pending culture data
   -- consider ID consult in AM (prelim antibiotic choice per their recs)
   --Continue Midodrine per pts home regimen (for known hypotension)
   .
   #. Pancytopenia: Differential includes medications including linezolid
   and valcyte.  Additionally, could be secondary to infection although
   patient has remained hemodynamically stable.
   -- cont to trend CBC
   -- neutrapenic precautions
   -- holding linezolid and valcyte
   .
   # ESRD on HD s/p failed transplant:
   --WIll make renal aware
   --Continue nephrocaps
   --Continue HD per home schedule
   --Continue Prednisone and Dapsone
   .
   .
   # Venous thrombus: Patient was noted to have complete thrombosis
   of the left AV graft, left cephalic vein and left subclavian
   vein, and partial thrombosis of left brachiocephalic vein with
   extension to SVC on her previous admission.
   --Continue coumadin for goal INR [**12-31**]
   .
   # CMV viremia: Patinet has been treated with valganciclovir and
   followed by ID
   --Repeat CMV viral load
   --Continue valganciclovir (Tue/[**Last Name (un) 1554**])
   #Anemia- Hct 25 on admission (baseline 27-30); no active source of
   bleeding, known anemia/pancytopenia in setting of renal failure and
   possibley due to lupus
   --Guiac stools
   --Trend Hct
   --Continue EPO with HD
   #Hyperglycemia-Pt has known elevated FS in setting of steroids
   -Continue Insulin Sliding Scale
   .
   # PPX: PPI, Coumadin
   # ACCESS: Left EJ, PIV
   # CODE:FULL
   # CONTACT: [**Name (NI) 430**] [**Name (NI) 8128**], sister [**Telephone/Fax (1) 10948**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2150-1-10**] 09:37 PM
   20 Gauge - [**2150-1-10**] 09:37 PM
   Dialysis Catheter - [**2150-1-10**] 10:32 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor
   ------ Protected Section ------
   Pt seen and evaluated. Please see details of history and plan as
   outlined above.
   In addition:
   Cardiac enzymes flat.  Hct 20 = transfused 1 unit
   Dapto/Meropenem/ po Vanco
   ANC 600 this AM
   C Diff was negative
   PE:
   Alert, comfortable
   Lungs Clear
   HS normal
   Abdomen
 BS active/non-tender/soft
   Extrem
 no edema
   Plan:
   BP has been stable
   Source of infection unclear
   Continuing AB per ID recs
   Okay for transfer to floor
   Time Spent: 30
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2150-1-12**] 11:29 ------

2150-01-14 07:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   HD in room overnight
   -Developed Afib with rapid rate to 120s-130s, controlled to 100s with
   Digoxin PO x1.  No hypotension
   - vancomycin and meropenem stopped given lack of clear indication
   - metoprolol changed to digoxin per recommendation of renal to better
   support BP
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Exfoliative [**Doctor Last Name **]
   Cellcept (Oral) (Mycophenolate Mofetil)
   Rash;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Myelosuppressio
   Last dose of Antibiotics:
   Vancomycin - [**2150-1-12**] 06:29 AM
   Meropenem - [**2150-1-12**] 12:28 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-1-14**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**51**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.2
   HR: 100 (71 - 121) bpm
   BP: 95/61(67) {88/52(62) - 113/80(177)} mmHg
   RR: 15 (15 - 24) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    161 mL
                                                                     78 mL
   PO:
             TF:
   IVF:
                                                                    161 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    161 mL
                                                                     78 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   91 K/uL
   7.3 g/dL
   81 mg/dL
   2.5 mg/dL
   30 mEq/L
   3.4 mEq/L
   10 mg/dL
   106 mEq/L
   143 mEq/L
   22.4 %
   2.2 K/uL
        [image002.jpg]
                             [**2150-1-10**]  11:24 PM
                             [**2150-1-11**]  05:41 AM
                             [**2150-1-11**]  03:29 PM
                             [**2150-1-12**]  05:03 AM
                             [**2150-1-12**]  03:39 PM
                             [**2150-1-13**]  07:47 AM
                             [**2150-1-13**]  11:37 AM
                             [**2150-1-13**]  05:23 PM
                             [**2150-1-14**]  04:22 AM
   WBC
   2.9
   2.8
   3.5
   2.3
   2.6
   2.8
   2.2
   Hct
   20.6
   23.1
   27.4
   25.3
   28.0
   25.2
   22.4
   Plt
   65
   60
   96
   76
   90
   92
   91
   Cr
   3.0
   3.1
   4.2
   4.4
   4.5
   2.5
   TropT
   0.02
   0.02
   0.08
   0.06
   Glucose
   119
   74
   77
   126
   84
   81
   Other labs: PT / PTT / INR:34.9/31.8/3.6, CK / CKMB /
   Troponin-T:10//0.06, Alk Phos / T Bili:/0.4, Differential-Neuts:26.0 %,
   Band:4.0 %, Lymph:62.0 %, Mono:5.0 %, Eos:2.0 %, Lactic Acid:1.4
   mmol/L, LDH:443 IU/L, Ca++:7.8 mg/dL, Mg++:1.6 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 ANEMIA, CHRONIC
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SYSTEMIC LUPUS ERYTHEMATOSUS (SLE)
   52 year old female with ESRD on HD, recent VRE bacteremia, CMV Viremia,
   SLE, initially admitted for possible VRE sepsis and now representing to
   the MICU with afib with RVR.
   .
   #. Afib with RVR:  Patient with a history of paroxysmal atrial
   fibrillation, chronically anticoagulated with coumadin. INR has been
   therapeutic since [**1-5**], previously subtherapeutic.  Given excellent
   mentation, currently improving hemodynamic parameters including
   decreasing heart rate, no indication for urgent cardioversion now and
   has not been anticoagulated for long enough anyway.  Has received a
   total 10 mg IV metoprolol and 20 mg IV diltiazem, 2.5L IVF as well as
   10 mg midodrine.  Previously on no rate control agents. Differential
   for cause of episode of RVR includes stress of recent infection, volume
   depletion.  Patient flipped back into NSR in the 70s on arrival to the
   ICU.
   - start metoprolol tartrate 25 mg PO bid
   - f/u cardiac enzymes
   - repeat EKG
   - continue anticoagulation
   .
   #. Sepsis: Patient initially presented with fevers, hyotension,
   tachycardia and a lactate of 4.8. She is chronically immunosuppressed
   and her presentation was initially concerning for sepsis. She was
   stared on PO vanc/[**Last Name (un) **]/dapto empirically. Her hypotension resolved
   after fluid administration and her lactate returned to [**Location 838**] levels.
   Infx work up has been (-) to date.
   - consult ID about abx regimen
   - d/c vancomycin (C. diff negative)
   - f/u CMV Viral load
   - f/u blood cultures
   - cont Midodrine per home regimen
   .
   #. Neutropenia: On admission WBC 4 and it has trended down throughout
   admission. Today it is 2.6, with a calculated ANC-780. Patient has
   remained afebrile. Likely due to linezolid as patient was taking as an
   outpatient.
   - cont to f/u counts
   - trend fever
   - CIS
   .
   # ESRD on HD s/p failed transplant: Patient on TTS schedule. Renal is
   following.
   - cont nephrocaps
   - cont HD - spoke with renal fellow, will be done today in ICU
   - cont Prednisone and Dapsone ppx
   .
   # Venous thrombus: Patient with known complete thrombosis of the left
   AV graft, left cephalic and left subclavian veins, and partial
   thrombosis of left brachiocephalic vein with extension to SVC.
   - cont coumadin for goal INR [**12-31**]
   .
   # CMV viremia: Patinet has been treated with valganciclovir and
   followed by ID, but this has been stopped due to neutropenia.
   - f/u CMV viral load
   - patient is followed Dr. [**Last Name (STitle) 980**] as an outpatient
   .
   #Anemia- Hct 25 on admission (baseline 27-30), currently mid 20s.
   Likely due to ESRD and anemia of chronic inflammation.
   - f/u daily CBC
   - EPO with HD
   .
   #Hyperglycemia-Pt has known elevated FS in setting of steroids
   - cont ISS
   .
   # PPX: PPI, Coumadin
   # ACCESS: Left EJ, PIV
   # CODE:FULL
   # CONTACT: [**Name (NI) 430**] [**Name (NI) 8128**], sister [**Telephone/Fax (1) 10948**]
   # DISPO: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2150-1-13**] 08:08 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2150-01-14 10:36:00 Physician Attending Progress Note
Chief Complaint: Afib with RVR
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Recurrent Afib with RVR overnight after HD. received digoxin po and
   rate improved to the 100. Vanco and meropenem d/c'd per ID. HR
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Exfoliative [**Doctor Last Name **]
   Cellcept (Oral) (Mycophenolate Mofetil)
   Rash;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Myelosuppressio
   Last dose of Antibiotics:
   Vancomycin - [**2150-1-12**] 06:29 AM
   Meropenem - [**2150-1-12**] 12:28 PM
   Infusions:
   Other ICU medications:
   Other medications:
   dapsone, daptomycin 300 iv q48, prednisone 5mg daily, warfarin 2.5
   [**Last Name (LF) 11009**], [**First Name3 (LF) **], midodrine, nephrocaps, omeprazole, insulin, digoxin.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-1-14**] 10:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**51**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.2
   HR: 100 (71 - 121) bpm
   BP: 95/61(67) {88/52(62) - 113/75(177)} mmHg
   RR: 15 (15 - 24) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    161 mL
                                                                    103 mL
   PO:
             TF:
   IVF:
                                                                    161 mL
                                                                    103 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    161 mL
                                                                    103 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), tachy, irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   7.3 g/dL
   91 K/uL
   81 mg/dL
   2.5 mg/dL
   30 mEq/L
   3.4 mEq/L
   10 mg/dL
   106 mEq/L
   143 mEq/L
   22.4 %
   2.2 K/uL
        [image002.jpg]
                             [**2150-1-10**]  11:24 PM
                             [**2150-1-11**]  05:41 AM
                             [**2150-1-11**]  03:29 PM
                             [**2150-1-12**]  05:03 AM
                             [**2150-1-12**]  03:39 PM
                             [**2150-1-13**]  07:47 AM
                             [**2150-1-13**]  11:37 AM
                             [**2150-1-13**]  05:23 PM
                             [**2150-1-14**]  04:22 AM
   WBC
   2.9
   2.8
   3.5
   2.3
   2.6
   2.8
   2.2
   Hct
   20.6
   23.1
   27.4
   25.3
   28.0
   25.2
   22.4
   Plt
   65
   60
   96
   76
   90
   92
   91
   Cr
   3.0
   3.1
   4.2
   4.4
   4.5
   2.5
   TropT
   0.02
   0.02
   0.08
   0.06
   Glucose
   119
   74
   77
   126
   84
   81
   Other labs: PT / PTT / INR:34.9/31.8/3.6, CK / CKMB /
   Troponin-T:10//0.06, Alk Phos / T Bili:/0.4, Differential-Neuts:26.0 %,
   Band:4.0 %, Lymph:62.0 %, Mono:5.0 %, Eos:2.0 %, Lactic Acid:1.4
   mmol/L, LDH:443 IU/L, Ca++:7.8 mg/dL, Mg++:1.6 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   ATRIAL FIBRILLATION (AFIB): continues on dig but remains in the
   100-110, BP stable.
   VRE bacteremia: on daptomycin alone
   Fever: has been afebrile since admission
   AV graft clot: hold coumadin x1d as INR supratherapeutic today, then
   resume tomorrow at lower dose.
   CMV viremia: off valgancylovir.. will follow up PCR test.
   Hct drop: guaiac her stool, ? residual effect of linezold, and
   gancyclovir, likely [**12-30**] to marrow suppression.
   SLE: continue prednisone 5mg daily.
   ICU Care
   Nutrition: regular diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2150-1-13**] 08:08 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 40 minutes
   ------ Protected Section ------
   I saw and examined the pt, and was physically present w/the ICU team
   for the key portions of services provided. I agree with Dr. [**First Name (STitle) 8379**]
   note, including assessment and plan. 52 yo female with SLE, ESRD failed
   transplant on HD, recent hospitalization for VRE bacteremia.
   Re-developed fevers during this hospitalization. Re-admitted to ICU for
   rapid afib with hypotension. Initially converted to SR, but back in
   afib yesterday following HD
   Plans;
   1.       Afib- management discussed with renal team again. BP remains
   the major factor barring our ability to achieve appropriate rate
   control, due to concerns that beta-blockers will leave no BP room for
   effective diuresis. Pt received digoxin load earlier today, remains
   mildly tachycardic with HR
s hovering 100-120
s. [**Month (only) 11**] need to
   re-consider beta blocker at lower dose, vs. amiodarone
   2.       Fvers: afebrile, on daptomycin. Gancyclovir stopped upon
   hospital admission due to concerns abt this inducing pancytopenia. Will
   talk to ID team regarding whether alternate prophylaxis warranted
   3.       SLE: on prednisone chronically
   4.       CKD: on HD, renal team following
   Remains in ICU until afib/tachycardia adequately controlled
   Total time spent: 34 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 341**] [**Last Name (NamePattern1) **], MD
   on:[**2150-1-14**] 15:59 ------